US07220775B2
A mixture of 2,4-dichloro-6-(1-piperidinyl)pyrimidine (100 mg, 0.43 mmol) and 1-[3-(trifluoromethyl)pyrid-2-yl]piperazine (119 mg, 0.52 mmol) in chlorobenzene (1 mL) was heated at 140° C. in a sealed tube for 24 hours. The solvent was removed and the crude material was purified by preparative TLC, eluting with hexane/ethyl acetate (9:1). 4-chloro-6-(1-piperidinyl)-2-{4-[3-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl}pyrimidine was obtained as a solid (79 mg, 0.19 mmol, 44%).

reactant | 2,4-dichloro-6-(1-piperidinyl)pyrimidine | 0.43 mmol, 100 mg | ClC1=NC(=CC(=N1)Cl)N1CCCCC1 | C9H11Cl2N3
reactant | 1-[3-(trifluoromethyl)pyrid-2-yl]piperazine | 0.52 mmol, 119 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
solvent | chlorobenzene | 1 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 4-chloro-6-(1-piperidinyl)-2-{4-[3-(trifluoromethyl)-2-pyridinyl]-1-piperazinyl}pyrimidine | ClC1=NC(=NC(=C1)N1CCCCC1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C19H22ClF3N6
